US07452886B2
7-(2,2-Dimethyl-propyl)-6-(4-pyrrol-1-yl-benzyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
To a solution of 6-(4-amino-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.32 mmol) in acetic acid (1 ml) is slowly added 2,5-dimethoxy-tetrahydro-furan (0.35 mmol). The reaction mixture is refluxed for 2 h and cooled. The mixture is quenched with saturated ammonium chloride and extracted with AcOEt. The organic layer is washed with saturated ammonium chloride and brine, dried over magnesium sulfate and evaporated down. The crude product is applied to a silica gel column chromatography, which is eluted with following solvents: n-hexane:AcOEt=6:1 (v/v) and n-hexane:AcOEt=4:1 (v/v). The solvent of the latter effluent is removed by evaporation and dried in vacuo to afford the title compound. yield 60.2%, Rf=0.55 (n-hexane:AcOEt=2:1). 1H-NMR (400 MHz, CDCl3) δ 1.06(s, 9H), 4.09(s, 2H), 4.24(s, 2H), 6.27(s, 1H), 6.35-6.36(m, 2H), 7.16-7.17(m, 2H), 7.21(d, 2H), 7.38(d, 2H), 8.84(s, 1H)

reactant | 6-(4-amino-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.32 mmol | NC1=CC=C(CC2=CC3=C(N=C(N=C3)C#N)N2CC(C)(C)C)C=C1 | C19H21N5
reactant | 2,5-dimethoxy-tetrahydro-furan | 0.35 mmol | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 7-(2,2-Dimethyl-propyl)-6-(4-pyrrol-1-yl-benzyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | yield 60.2% | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CC2=CC=C(C=C2)N2C=CC=C2)(C)C | C23H23N5
